US05252586
1-t-Butyloxycarbonyl-4-hydroxyethylpiperidine
A solution of di-t-butyl dicarbonate (10.15 g, 47 mmol) in tetrahydrofuran (15 mL) was added slowly to a 0° C. solution of 4-hydroxyethylpiperidine (5.0 g, 39 mmol) and sodium hydroxide (1.86 g, 47 mmol) in THF. After stirring for 24 hours at room temperature, the mixture was poured into water (200 mL) and extracted with ethyl acetate (3×200 mL). The solution was dried (MgSO4), filtered, and concentrated under vacuum to yield a colorless oil (9.0 g, quant.). 1H NMR (300 MHz, CDCl3 /TMS, δ): 4.1(m,2H), 3.7(q,2H,J=5Hz), 2.7(br t,2H), 1.7(m,2H), 1.43(s,9H), 1.12-1.00(m,3H) MSCI: 230(MH+, base).

reactant | di-t-butyl dicarbonate | 47 mmol, 10.15 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-hydroxyethylpiperidine | 39 mmol, 5.0 g | OCCC1CCNCC1 | C7H15NO
reactant | sodium hydroxide | 47 mmol, 1.86 g | [OH-].[Na+]
reactant | water | 200 mL | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 1-t-Butyloxycarbonyl-4-hydroxyethylpiperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
